US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid Benzyl Ester
4.0 M HCl in 1,4-dioxane (270 μL, 1.0 mmol) was added to a solution of (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid (130 mg, 270 μmol) in benzyl alcohol (559 μL, 5.4 mmol), and the resulting mixture was stirred at 60° C. for 15 minutes. The mixture was purified by preparative HPLC (C18 column chromatography using 30-90% MeCN in water with 0.05% TFA) to yield the title compound as an off-white solid (16.0 mg, purity 99.2%). MS m/z [M+H]+ calc'd for C31H27ClN4O5, 571.17. found 571.1.

reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 1.0 mmol, 270 μL | O1CCOCC1 | C4H8O2
reactant | (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid | 270 μmol, 130 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=CC2=C(N=NN2O)C=C1 | C24H21ClN4O5
reactant | benzyl alcohol | 5.4 mmol, 559 μL | C(C1=CC=CC=C1)O | C7H8O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid Benzyl Ester | 16.0 mg | C(C1=CC=CC=C1)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=CC2=C(N=NN2O)C=C1)O)=O | C31H27ClN4O5
